US06916819B2
A mixture of 1-Ethyl-2-{[2-(3-fluorophenyl)-pyrazol-3-yl]methyl}-5-bromo-1H-benzimidazole (200 mg, 0.5 mmol), tributyl(1-ethoxyvinyl)tin (0.34 ml, 1.0 mmol), and tetrakis(triphenylphosphine)palladium(0) (29 mg) in toluene (10 mL) is heated at reflux for 1 h under argon. The solvent is removed in vacuo, the residue is then dissolved in 10% HCl (5 mL) and THF (5 mL). The mixture is stirred at room temperature for 0.5 h, then extracted with ethyl acetate. The aqueous layer is adjusted to pH 9, extracted with dichloromethane, and the organic layer dried (Na2SO4), concentrated, and the residue purified by preparative silica gel chromatography to give 1-Ethyl-2-{[2-(3-fluorophenyl)-pyrazol-3-yl]methyl}-5-acetyl-1H-benzimidazole. 1H NMR (CDCl3): δ 8.36 (d, 1H); 7.99 (dd, 1H); 7.645 (d, 1H); 7.25-7.49 (m, 4H); 7.14 (m, 1H); 6.21 (d, 1h); 4.36 (s, 2H); 4.02 (g, 2H); 2.68 (s, 3H); 1.24 (t, 3H).

reactant | 1-Ethyl-2-{[2-(3-fluorophenyl)-pyrazol-3-yl]methyl}-5-bromo-1H-benzimidazole | 0.5 mmol, 200 mg | C(C)N1C(=NC2=C1C=CC(=C2)Br)CC=2N(N=CC2)C2=CC(=CC=C2)F | C19H16BrFN4
reactant | tributyl(1-ethoxyvinyl)tin | 1.0 mmol, 0.34 ml | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Ethyl-2-{[2-(3-fluorophenyl)-pyrazol-3-yl]methyl}-5-acetyl-1H-benzimidazole | C(C)N1C(=NC2=C1C=CC(=C2)C(C)=O)CC=2N(N=CC2)C2=CC(=CC=C2)F | C21H19FN4O
